US08114868B2
To a solution of (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one (6.6 g, 15.2 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (6.1 g, 24.3 mmol) in dry DMSO (20 mL) was added KOAc (4.8 g, 48.6 mmol) and Pd(dppf)cl2 (372 mg, 0.46 mmol). After addition, the mixture was allowed to warm to 100° C. for 20 h. After TLC showed the starting material had disappeared, the solid was filtered off. Water (60 mL) and EtOAc (20 mL) were added. The layers were separated and the aqueous layer was extracted with EtOAc (3×15 mL). The combined organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to give a residue, which was purified by column chromatography to give (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborol-an-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (4.4 g, 60%).

reactant | (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | 15.2 mmol, 6.6 g | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C22H26BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 24.3 mmol, 6.1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 48.6 mmol, 4.8 g | CC(=O)[O-].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)cl2 | 0.46 mmol, 372 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborol-an-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 4.4 g, 60% | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
